.title Symmetrical Load VCO schematic

* MOSFET
.include "/home/merlproj/custom_tools/sky130_fd_pr/cells/nfet_01v8/sky130_fd_pr__nfet_01v8__tt.corner.spice"
.include "/home/merlproj/custom_tools/sky130_fd_pr/cells/nfet_01v8_lvt/sky130_fd_pr__nfet_01v8_lvt__tt.corner.spice"
.include "/home/merlproj/custom_tools/sky130_fd_pr/cells/pfet_01v8/sky130_fd_pr__pfet_01v8__tt.corner.spice"
.include "/home/merlproj/custom_tools/sky130_fd_pr/cells/nfet_03v3_nvt/sky130_fd_pr__nfet_03v3_nvt__tt.corner.spice"
.include "/home/merlproj/custom_tools/sky130_fd_pr/cells/nfet_05v0_nvt/sky130_fd_pr__nfet_05v0_nvt__tt.corner.spice"
.include "/home/merlproj/custom_tools/sky130_fd_pr/cells/esd_nfet_01v8/sky130_fd_pr__esd_nfet_01v8__tt.corner.spice"
.include "/home/merlproj/custom_tools/sky130_fd_pr/cells/pfet_01v8_lvt/sky130_fd_pr__pfet_01v8_lvt__tt.corner.spice"
.include "/home/merlproj/custom_tools/sky130_fd_pr/cells/pfet_01v8_hvt/sky130_fd_pr__pfet_01v8_hvt__tt.corner.spice"
.include "/home/merlproj/custom_tools/sky130_fd_pr/cells/esd_pfet_g5v0d10v5/sky130_fd_pr__esd_pfet_g5v0d10v5__tt.corner.spice"
.include "/home/merlproj/custom_tools/sky130_fd_pr/cells/pfet_g5v0d10v5/sky130_fd_pr__pfet_g5v0d10v5__tt.corner.spice"
.include "/home/merlproj/custom_tools/sky130_fd_pr/cells/pfet_g5v0d16v0/sky130_fd_pr__pfet_g5v0d16v0__tt.corner.spice"
.include "/home/merlproj/custom_tools/sky130_fd_pr/cells/nfet_g5v0d10v5/sky130_fd_pr__nfet_g5v0d10v5__tt.corner.spice"
.include "/home/merlproj/custom_tools/sky130_fd_pr/cells/nfet_g5v0d16v0/sky130_fd_pr__nfet_g5v0d16v0__tt_discrete.corner.spice"
.include "/home/merlproj/custom_tools/sky130_fd_pr/cells/esd_nfet_g5v0d10v5/sky130_fd_pr__esd_nfet_g5v0d10v5__tt.corner.spice"
.include "/home/merlproj/custom_tools/sky130_fd_pr/models/corners/tt/nonfet.spice"
* Mismatch parameters
.include "/home/merlproj/custom_tools/sky130_fd_pr/cells/nfet_01v8/sky130_fd_pr__nfet_01v8__mismatch.corner.spice"
.include "/home/merlproj/custom_tools/sky130_fd_pr/cells/pfet_01v8/sky130_fd_pr__pfet_01v8__mismatch.corner.spice"
.include "/home/merlproj/custom_tools/sky130_fd_pr/cells/nfet_01v8_lvt/sky130_fd_pr__nfet_01v8_lvt__mismatch.corner.spice"
.include "/home/merlproj/custom_tools/sky130_fd_pr/cells/pfet_01v8_lvt/sky130_fd_pr__pfet_01v8_lvt__mismatch.corner.spice"
.include "/home/merlproj/custom_tools/sky130_fd_pr/cells/pfet_01v8_hvt/sky130_fd_pr__pfet_01v8_hvt__mismatch.corner.spice"
.include "/home/merlproj/custom_tools/sky130_fd_pr/cells/nfet_g5v0d10v5/sky130_fd_pr__nfet_g5v0d10v5__mismatch.corner.spice"
.include "/home/merlproj/custom_tools/sky130_fd_pr/cells/pfet_g5v0d10v5/sky130_fd_pr__pfet_g5v0d10v5__mismatch.corner.spice"
.include "/home/merlproj/custom_tools/sky130_fd_pr/cells/nfet_05v0_nvt/sky130_fd_pr__nfet_05v0_nvt__mismatch.corner.spice"
.include "/home/merlproj/custom_tools/sky130_fd_pr/cells/nfet_03v3_nvt/sky130_fd_pr__nfet_03v3_nvt__mismatch.corner.spice"
* Resistor/Capacitor
.include "/home/merlproj/custom_tools/sky130_fd_pr/models/r+c/res_typical__cap_typical.spice"
.include "/home/merlproj/custom_tools/sky130_fd_pr/models/r+c/res_typical__cap_typical__lin.spice"
* Special cells
.include "/home/merlproj/custom_tools/sky130_fd_pr/models/corners/tt/specialized_cells.spice"
* All models
.include "/home/merlproj/custom_tools/sky130_fd_pr/models/all.spice"
* Corner
.include "/home/merlproj/custom_tools/sky130_fd_pr/models/corners/tt/rf.spice"

.include "DelayCell.cir"
.include "Selfbias.cir"

X1 vdd vss vctrl inp inn otp1 otn1 vbn DelayCell
X2 vdd vss vctrl otn1 otp1 otp2 otn2 vbn DelayCell
X3 vdd vss vctrl otn2 otp2 otp3 otn3 vbn DelayCell
X4 vdd vss vctrl otn3 otp3 inp inn vbn DelayCell
X5 vdd vss vbn Vinit vctrl BiasGen

C1 inp 0 1p
C2 inn 0 1p

V1 vdd 0 dc 1.8
V2 vss 0 dc 0
V3 Vctrl 0 dc 1.1
*V4 vbn 0 dc 0.7
I1 Vinit 0 0
*VP1 INP 0 PULSE(0 1.8 1n 10p 10p 0.33n 0.66n)
*VN1 INN 0 PULSE(1.8 0 1n 10p 10p 0.33n 0.66n)

.param TEMP=27
	.control

	*DC v3 0 1.8 10m ;V4 0 1.8 0.9
	*plot v(inp) v(inn)
	TRAN 1p 500n 0
	plot v(inp) v(inn) v(vbn) v(vctrl) v(Vinit)
	*plot i(vdmy1) i(vdmy2) i(vtt)
	meas tran ymax max v(inp)
	meas tran ymin min v(inp)
	let val1=(ymax-ymin)/2
	let h1=val1+ymin
	print val1 h1
	meas tran T3 when V(inp)=h1 rise=5
	meas tran T4 when V(inp)=h1 rise=6
	let freq2=1/(t4-t3)
	print freq2
	let inv_td2=1/(5*2*freq2)
print inv_td2
	
	.endc 
.end
